US05275939
A 10 ml quantity of 0.05% ganglioside GM1 solution, 10 ml of 40 mM acetate buffer (pH 5.0) and 10 ml of sterilized water were mixed together, and to the mixture was added 10 ml of aqueous Isozyme L (3 U/ml), followed by reaction at 37° C. for 8 hours. The reaction mixture was subjected to purification in the same manner as in Example 1, giving about 2.6 mg of asialo GM1 as a white powder. The production of asialo GM1 was confirmed in the same manner as in Example 1.

reactant | ganglioside GM1 | CCCCCCCCCCCCCCCCCC(=O)N[C@@H](CO[C@H]1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)NC(=O)C)O[C@@]5(C[C@@H]([C@H]([C@@H](O5)[C@@H]([C@@H](CO)O)O)NC(=O)C)O)C(=O)O)O)O)O)[C@@H](/C=C/CCCCCCCCCCCCC)O | C73H131N3O31
reactant | acetate | 40 mM, 10 ml, pH 5.0 | C(C)(=O)[O-]
solvent | water | 10 ml | O | H2O
product | asialo GM1 | about 2.6 mg | CCCCCCCCCCCCCCCCCC(=O)NC(COC1[C@@H]([C@H]([C@@H]([C@H](O1)CO)O[C@H]2[C@@H]([C@H]([C@H]([C@H](O2)CO)O[C@H]3[C@@H]([C@H]([C@H]([C@H](O3)CO)O)O[C@H]4[C@@H]([C@H]([C@H]([C@H](O4)CO)O)O)O)NC(=O)C)O)O)O)O)C(/C=C/CCCCCCCCCCCCC)O | C62H114N2O23
